US04094994
(c) 6,7-di-(3'-methoxyphenyl)-dodecane
The preparation was effected in analogy to example 1(c) from 1-chlor-1-(3'-methoxyphenyl)-hexane and ethyl magnesium bromide activated with cobalt - (II) - chloride.

reactant | 1-chlor-1-(3'-methoxyphenyl)-hexane | ClC(CCCCC)C1=CC(=CC=C1)OC | C13H19ClO
reactant | ethyl magnesium bromide | C(C)[Mg]Br
catalyst | cobalt - (II) - chloride | [Co](Cl)Cl
product | 6,7-di-(3'-methoxyphenyl)-dodecane | COC=1C=C(C=CC1)C(CCCCC)C(CCCCC)C1=CC(=CC=C1)OC | C26H38O2
